US09402832B2
t-BuOK (7.77 g, 69.3 mmol) was added portions to a suspension of compound methyltriphenylphosphonium iodide (28.0 g, 68.3 mmol) in dry THF (250 mL) over 10 min at 0° C. The resulting yellow suspension was stirred for 20 min at this temperature. A solution of piperonal (8.0 g, 53.3 mmol) in dry THF (25 mL) was added dropwise to the above suspension and the mixture was stirred for 1 h at 0° C. The reaction mixture was concentrated and the residue was purified by column chromatograph (petroleum ether) to provide compound 5-vinylbenzo[d][1,3]dioxole (7.4 g, 94%) as colorless liquid. 1H-NMR (DMSO-d6): δ 5.09 (d, 1H, J=11.2 Hz), 5.68 (d, 1H, J=18 Hz), 6.00 (s, 2H), 6.63 (1, 1H, J1=11.2 Hz, J2=18 Hz), 6.85 (m, 2H), 7.11 (s, 1H).

reactant | t-BuOK | 69.3 mmol, 7.77 g | CC(C)(C)[O-].[K+]
reactant | methyltriphenylphosphonium iodide | 68.3 mmol, 28.0 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | piperonal | 53.3 mmol, 8.0 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-vinylbenzo[d][1,3]dioxole | 7.4 g, 94% | C(=C)C1=CC2=C(OCO2)C=C1 | C9H8O2
